US07820823B2
9-(4-{4-[(5S)-5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-piperazin-1-yl)-8-fluoro-3-methyl-6-oxo-2,3-dihydro-6H-1-oxa-3,3a-diaza-phenalene-5-carboxylic Acid
44 mg of 9-(4-{4-[(5S)-5-(acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-piperazin-1-yl)-8-fluoro-3-methyl-6-oxo-2,3-dihydro-6H-1-oxa-3,3a-diaza-phenalene-5-carboxylic acid ethyl ester (0.32 mmol) were heated at 80° C. in 2 ml of a 1/1 conc. HCl and acetic acid mixture. The reaction was monitored by HPLC. The HCl/AcOH mixture was evaporated, the residue dissolved in a methanol/dichloromethane 1/1 mixture, treated with triethylamine and evaporated. The deacetylated residue was dissolved in a 1/1 mixture acetic acid and acetic anhydride, and the reaction monitored by HPLC. The solvents were evaporated and the residue was purified by preparative HPLC.

reactant | 9-(4-{4-[(5S)-5-(acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-piperazin-1-yl)-8-fluoro-3-methyl-6-oxo-2,3-dihydro-6H-1-oxa-3,3a-diaza-phenalene-5-carboxylic acid ethyl ester | 0.32 mmol, 44 mg | C(C)OC(=O)C1=CN2N(COC=3C(=C(C=C(C1=O)C32)F)N3CCN(CC3)C3=C(C=C(C=C3)N3C(O[C@H](C3)CNC(C)=O)=O)F)C | C30H32F2N6O7
reactant | HCl | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 TFA | 2 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | 9-(4-{4-[(5S)-5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-piperazin-1-yl)-8-fluoro-3-methyl-6-oxo-2,3-dihydro-6H-1-oxa-3,3a-diaza-phenalene-5-carboxylic Acid | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCN(CC1)C1=C(C=C2C(C(=CN3N(COC1=C32)C)C(=O)O)=O)F)F | C28H28F2N6O7
